US07538123B2
(1) 5,7-Dihydroxy-2,2-dimethyl-4-oxochromane
40 ml of methanesulfonic acid was added to 1.99 g of diphosphorus pentoxide under nitrogen atmosphere. Thereafter, a mixture consisting of 3.15 g of 1,3,5-trihydroxybenzene and 3,3-dimethylacrylic acid was added to the reaction solution at 70° C. The reaction solution was stirred at 70° C. for 30 minutes and then cooled to a room temperature. The reaction solution was added to ice water, followed by extraction with ethyl acetate. The extract was washed with water and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 2.81 g of the subject compound.

reactant | diphosphorus pentoxide | 1.99 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 1,3,5-trihydroxybenzene | 3.15 g | OC1=CC(=CC(=C1)O)O | C6H6O3
reactant | 3,3-dimethylacrylic acid | CC(=CC(=O)O)C | C5H8O2
solvent | methanesulfonic acid | 40 ml | CS(=O)(=O)O | CH4O3S
product | 5,7-Dihydroxy-2,2-dimethyl-4-oxochromane | 2.81 g | OC1=C2C(CC(OC2=CC(=C1)O)(C)C)=O | C11H12O4
